US08455496B2
Oxalyl chloride (47.4 g, 369 mmol) was added to a suspension of 5-Bromo-pyrimidine-2-carboxylic acid (50 g, 250 mmol) in dichloromethane (821 ml) at room temperature followed by 1-2 drop of dimethylformamide. The reaction mixture was stirred under nitrogen for 2 hours LCMS in methanol indicated the presence of the methyl ester and some acid. Dimethylformamide (0.2 ml) was added to the reaction mixture. The acid dissolved after 30 minutes. LCMS showed corresponding methyl ester and no starting material peak was observed. The solvent was removed and dried in vacuo to afford the crude 5-Bromo-pyrimidine-2-carbonyl chloride (55 g, 100%).

reactant | Oxalyl chloride | 369 mmol, 47.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-Bromo-pyrimidine-2-carboxylic acid | 250 mmol, 50 g | BrC=1C=NC(=NC1)C(=O)O | C5H3BrN2O2
reactant | Dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 821 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1-2 drop | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 5-Bromo-pyrimidine-2-carbonyl chloride | 55 g, 100% | BrC=1C=NC(=NC1)C(=O)Cl | C5H2BrClN2O
